US07495006B2
1-Methylene-3-benzyloxymethyl-cyclobutane
In a 50 mL three-neck flask with t-BuOK (0.54 g, 4.8 mmol) and methyltriphenylphosphonium bromide (1.72 g, 4.8 mmol) inside, dry 1,4-dioxane was added under argon to give a yellow emulsion. This was heated to 40° C. for 30 min, after which time the mixture was cooled to 10° C. and a 1,4-dioxane solution of 3-(benzyloxymethyl)cyclobutanone (0.76 g, 4 mmol) was added drop by drop. The mixture was left stirring at 10° C. for 3 hr. Then the solvent was removed by rotary evaporator and the residue was dissolved in Et2O and H2O. The organic phase was separated and the aqueous phase was extracted with Et2O. The combined organic phase was dried over MgSO4 and the solvent was evaporated to dryness to give an oily product, which was purified by silica gel flash chromatography (Hexane: EtOAc=20:1) to give a colorless oil (0.48 g, 63%, Rf=0.79 (Hexane:EtOAc=3:1)). 1H NMR (CDCl3, 400 MHz): δ 2.36-2.48 (m, 2H), 2.52-2.64 (m, 1H), 2.72-2.84 (m, 2H), 3.48-3.50 (d, J=7.2, 2H), 4.53 (s, 1H), 4.74-4.77 (m, 2H), 7.2-7.4 (m, 5H). 13C NMR (CDCl3, 100 MHz): δ 29.82, 35.06, 73.26, 74.60, 106.52, 127.77, 127.88, 128.60, 147.34. MS (FAB): expected for C13H16O (M+H)+ 189.27. Found 189.12748. IR (neat) νmax 2921, 2853, 1720, 1676, 1453, 1272, 1113, 1071, 1027, 875, 737, 713, 698.

reactant | t-BuOK | 4.8 mmol, 0.54 g | CC(C)(C)[O-].[K+]
reactant | 3-(benzyloxymethyl)cyclobutanone | 4 mmol, 0.76 g | C(C1=CC=CC=C1)OCC1CC(C1)=O | C12H14O2
catalyst | methyltriphenylphosphonium bromide | 4.8 mmol, 1.72 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-Methylene-3-benzyloxymethyl-cyclobutane | C=C1CC(C1)COCC1=CC=CC=C1 | C13H16O
